US04731358
3-tert-butoxycarbonylamino-β-carboline
0.25 g of β-carboline-3-carboxylic acid are dissolved in 4 ml of dimethylsulfoxide while being heated. 10 ml of tert-butanol, 0.25 ml of diphenylphosphoryl azide and 0.17 ml of triethylamine are added to the solution. The reaction mixture is refluxed for 15 minutes. The crystals precipitated during cooling are filtered off, the tert-butanol is evaporated from the filtrate under vacuum and the residue is mixed with 10 ml of water. 0.025 g of 3-tert-butoxycarbonylamino-β-carboline with a 185°-190° C. melting point (methanol) is obtained from the resulting precipitate by chromatography on silica gel (methylene chloride with 5% methanol).

reactant | β-carboline-3-carboxylic acid | 0.25 g | C1=NC(=CC=2C3=CC=CC=C3NC12)C(=O)O | C12H8N2O2
reactant | tert-butanol | 10 ml | C(C)(C)(C)O | C4H10O
reactant | diphenylphosphoryl azide | 0.25 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.17 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 4 ml | CS(=O)C | C2H6OS
product | 3-tert-butoxycarbonylamino-β-carboline | C(C)(C)(C)OC(=O)NC=1N=CC=2NC3=CC=CC=C3C2C1 | C16H17N3O2
